US06458781B1
Preparation of (S)-2-Cyclohexylamino-4-methyl-pentanoic acid [4,4-bis-(4-fluoro-phenyl)-butyl]-amide monohydrochloride
A suspension of (S)-2-cyclohexylamino-4-methyl-pentanoic acid (108 mg, 0.51 mmol) and 4,4-bis-(4-fluoro-phenyl)-butylamine monohydrochloride (151 mg, 0.51 mmol) in dry DMF (4 mL) was treated with Triton® B (0.92 mL, 2.0 mmol, 40 weight percent solution in methanol, Aldrich, Milwaukee, Wis.), then sonicated for a few seconds, a clear solution was obtained. The clear solution was concentrated in vacuo to remove most of the methanol, then cooled to 0° C. in an ice-water bath. Solid O-benzotriazol-1-yl-N,N,N′,N′-tetramethyluronium hexafluorophosphate (0.19 g, 0.51 mmol) was then added. After stirring at 0° C. for 20 minutes the cooling bath was removed, and the stirring was continued at ambient temperature for 30 minutes. After this period, the reaction mixture was mixed with 60 mL of diethyl ether; the resulting mixture was successively washed with saturated aqueous NaHCO3 solution (2×50 mL), brine (2×50 mL), and was dried over Na2SO4. The solution was concentrated in vacuo affording a viscous oil. The crude product was purified by flash chromatography (60% EtOAc in hexanes). The free amine was dissolved in 5 mL of ethyl ether and treated with ethereal HCl to afford 150 mg (60%) of the pure titled compound as a white foam; mp 75-85° C. APCI-MS m/z 457.3 (MH+).

reactant | (S)-2-cyclohexylamino-4-methyl-pentanoic acid | 0.51 mmol, 108 mg | C1(CCCCC1)N[C@H](C(=O)O)CC(C)C | C12H23NO2
reactant | 4,4-bis-(4-fluoro-phenyl)-butylamine monohydrochloride | 0.51 mmol, 151 mg | Cl.FC1=CC=C(C=C1)C(CCCN)C1=CC=C(C=C1)F
reactant | O-benzotriazol-1-yl-N,N,N′,N′-tetramethyluronium hexafluorophosphate | 0.51 mmol, 0.19 g | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)OC(=[N+](C)C)N(C)C
solvent | DMF | 4 mL | CN(C)C=O | C3H7NO
solvent | methanol | CO | CH4O
product | (S)-2-Cyclohexylamino-4-methyl-pentanoic acid [4,4-bis-(4-fluoro-phenyl)-butyl]-amide monohydrochloride | 150 mg, 60% | Cl.FC1=CC=C(C=C1)C(CCCNC([C@H](CC(C)C)NC1CCCCC1)=O)C1=CC=C(C=C1)F | InChI=1S/C28H38F2N2O.ClH/c1-20(2)19-27(32-25-7-4-3-5-8-25)28(33)31-18-6-9-26(21-10-14-23(29)15-11-21)22-12-16-24(30)17-13-22;/h10-17,20,25-27,32H,3-9,18-19H2,1-2H3,(H,31,33);1H/t27-;/m0./s1
